US08207176B2
1,1-dimethylethyl (2-{[8-(2,6-difluorophenyl)-4-(5-{[(4-fluorophenyl)amino]carbonyl}-2-methylphenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}ethyl)methylcarbamate
To a solution of 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide (50 mg, 0.09 mmol) in DCM (5 mL) was added 1,1-dimethylethyl (2-aminoethyl)-methylcarbamate (0.09 mL, 0.5 mmol). The resultant mixture was stirred at room temperature overnight. The mixture was concentrated under vacuo. Flash chromatography (90% CH2Cl2/7% MeOH/3% NH4OH) then provide the title compound (61 mg, 100%). LC-MS (ES) m/z 659 (M+H)+; 1H-NMR(CDCl3) δ 1.39 (s, 9H), 1.70 (br, 1H), 2.32 (s, 3H), 2.65 (s, 2H), 2.82 (s, 2H), 3.22 (s, 3H), 3.60 (br, 1H), 6.34 (d, 1H), 7.03 (m, 4H), 7.34 (m, 1H), 7.48 (m, 2H), 7.64 (m, 1H), 7.84 (m, 2H), 8.14 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 0.09 mmol, 50 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)S(=O)C)=O | C28H19F3N4O3S
reactant | 1,1-dimethylethyl (2-aminoethyl)-methylcarbamate | 0.5 mmol, 0.09 mL | NCCN(C(OC(C)(C)C)=O)C | C8H18N2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl (2-{[8-(2,6-difluorophenyl)-4-(5-{[(4-fluorophenyl)amino]carbonyl}-2-methylphenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}ethyl)methylcarbamate | 61 mg, 100% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=CC(=C2)C(=O)NC2=CC=C(C=C2)F)C)NCCN(C(OC(C)(C)C)=O)C)=O | C35H33F3N6O4
